US07932246B2
Ethyl 2-(3-aminoazetidin-1-yl)pyrimidine-5-carboxylate hydrochloride
4M HCl in dioxane (15 ml) was added to ethyl 2-{3-[(tert-butoxycarbonyl)amino]azetidin-1-yl}pyrimidine-5-carboxylate (323 mg, 1 mmol) and the reaction stirred at r.t. for 30 min. The suspension was concentrated in vacuo to give the title compound as a white solid (323 mg, quant.). LCMS purity 78%, m/z 223 [M+H]+.

reactant | HCl | 4M | Cl | ClH
reactant | ethyl 2-{3-[(tert-butoxycarbonyl)amino]azetidin-1-yl}pyrimidine-5-carboxylate | 1 mmol, 323 mg | C(C)(C)(C)OC(=O)NC1CN(C1)C1=NC=C(C=N1)C(=O)OCC | C15H22N4O4
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | Ethyl 2-(3-aminoazetidin-1-yl)pyrimidine-5-carboxylate hydrochloride | 323 mg | Cl.NC1CN(C1)C1=NC=C(C=N1)C(=O)OCC | InChI=1S/C10H14N4O2.ClH/c1-2-16-9(15)7-3-12-10(13-4-7)14-5-8(11)6-14;/h3-4,8H,2,5-6,11H2,1H3;1H
